US06048852
a) N-Methyl-phenylglycine methyl ester hydrochloride
Prepared by Method A of Example 19 but using N-methyl-phenylglycine (prepared in turn from 2-chlorophenylacetic acid and methylamine) (3.5 g) methanol (20 ml) and acetyl chloride (40 ml) over 48 hours. The title compound was obtained in 94% yield, after trituration with methanol, as a white solid.

reactant | N-methyl-phenylglycine | 3.5 g | CN(CC(=O)O)C1=CC=CC=C1 | C9H11NO2
reactant | acetyl chloride | 40 ml | C(C)(=O)Cl | C2H3ClO
solvent | methanol | 20 ml | CO | CH4O
product | N-Methyl-phenylglycine methyl ester hydrochloride | 94% yield | Cl.COC(CN(C)C1=CC=CC=C1)=O | InChI=1S/C10H13NO2.ClH/c1-11(8-10(12)13-2)9-6-4-3-5-7-9;/h3-7H,8H2,1-2H3;1H
